US05985849
5-(Hydroxy-((3-phenoxy)phenyl)methyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (using 3-phenoxybenzaldehyde instead of benzophenone) as a colourless foam.

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
product | 5-(Hydroxy-((3-phenoxy)phenyl)methyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | OC(C=1C(NC(N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C1)=O)=O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C40H64N2O8Si3
